US04642308
The procedure is similar to that described in Example 1, but starting with 3,4-methylenedioxybenzoic acid (16.6 g), N,N'-carbonyldiimidazole (16.2 g) and 2-amino-7-chloro-1,8-naphthyridine (11.7 g). The product produced by precipitation in water (15.7 g; m.p. 256° C.) is dissolved in 1-propanol (1000 cc). After 16 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with 1-propanol (3×20 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-chloro-1,8-naphthyridin-2-yl)-3,4-methylenedioxybenzamide (8.4 g) is produced, m.p. 256° C.

reactant | 3,4-methylenedioxybenzoic acid | 16.6 g | C1OC=2C=C(C(=O)O)C=CC2O1 | C8H6O4
reactant | 2-amino-7-chloro-1,8-naphthyridine | 11.7 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | water | 15.7 g | O | H2O
solvent | 1-propanol | 1000 cc | C(CC)O | C3H8O
product | N-(7-chloro-1,8-naphthyridin-2-yl)-3,4-methylenedioxybenzamide | 8.4 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC2=C(C=C1)OCO2)=O | C16H10ClN3O3
